US08802673B2
To a stirred solution of (RS)-1-(4-bromo-2-fluorophenyl)-2-(2-hydroxyethylamino)ethanol (12.0 g) in THF (70 ml) at 0° C. was added Boc2O (10.4 g) and the mixture was stirred at 0° C. for 1 hour and then at room temperature overnight. The reaction mixture was then poured into EtOAc and the mixture washed sequentially with 1 M aq. NaOH solution and saturated brine, then dried over Na2SO4 and concentrated in vacuo to afford (RS)-tert-butyl 2-(4-bromo-2-fluorophenyl)-2-hydroxyethyl(2-hydroxyethyl)carbamate (15.5 g, 95%) as a yellow oil which was used in the next step without further purification. MS (ISP): 380.0 ([{81Br}M+H]+), 378.0 ([{79Br}M+H]−).

reactant | (RS)-1-(4-bromo-2-fluorophenyl)-2-(2-hydroxyethylamino)ethanol | 12.0 g | BrC1=CC(=C(C=C1)C(CNCCO)O)F | C10H13BrFNO2
reactant | Boc2O | 10.4 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | (RS)-tert-butyl 2-(4-bromo-2-fluorophenyl)-2-hydroxyethyl(2-hydroxyethyl)carbamate | 15.5 g, 95% | BrC1=CC(=C(C=C1)C(CN(C(OC(C)(C)C)=O)CCO)O)F | C15H21BrFNO4
